US04124590
2-Chloro-5-(3-benzyloxypiperidinosulfonyl)benzoic Acid
2-Chloro-5-chlorosulfonylbenzoic acid is reacted with 3-benzyloxypiperidine by the method of Example 1. Recrystallization from ether-hexane yields the product, m.p. 173°-174° C.

reactant | 2-Chloro-5-chlorosulfonylbenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)Cl | C7H4Cl2O4S
reactant | 3-benzyloxypiperidine | C(C1=CC=CC=C1)OC1CNCCC1 | C12H17NO
product | 2-Chloro-5-(3-benzyloxypiperidinosulfonyl)benzoic Acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CC(CCC1)OCC1=CC=CC=C1 | C19H20ClNO5S
